US09107911B2
Synthesis of Arachidoyl Chloride
Oxalyl chloride (2.67 ml, 0.0191 mol) was added drop-wise to a mixture of Arachidic acid (6.0 g, 0.0211 mol) and DMF (4 drops) in dichloromethane (50 ml) at 0° C. After the addition was completed, the reaction mixture was stirred at 0° C. for 30 minutes and then stirred at 25° C. for 1 hour, the reaction mixture was partitioned between dichloromethane and water, and the aqueous layer was extracted with dichloromethane. The combined organic extracts were washed with brine, then dried with sodium sulphate and concentrated in vacuo to provide the desired product (6.35 g, 100% yield) as a solid which was not purified any further.

reactant | Oxalyl chloride | 0.0191 mol, 2.67 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | Arachidic acid | 0.0211 mol, 6.0 g | C(CCCCCCCCCCCCCCCCCCC)(=O)O | C20H40O2
catalyst | DMF | 4 drops | CN(C)C=O | C3H7NO
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | Arachidoyl Chloride | 6.35 g, 100% yield | C(CCCCCCCCCCCCCCCCCCC)(=O)Cl | C20H39ClO
